US08431525B2
Under an argon atmosphere, 2-amino-3-benzyl-5-phenylpyrazine (c-41) (852 mg, 3.26 mmol) was dissolved in anhydrous dichloromethane (25 mL), and to this was added triethylamine (1.38 mL, 9.87 mmol), and cooled to 0° C. To this was added benzylsulfonyl chloride (1.87 g, 9.80 mmol) and stirred for 23.5 h after warming to room temperature. To this was added 2 M hydrochloric acid to stop the reaction and after separating the aqueous layer and organic layer, the organic layer was washed once with water and once with saturated hydrochloric acid and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporator. The residue was purified by silica gel column chromatography (56 g, n-hexane/ethyl acetate=4/1) to give 3-benzyl-2-bis(benzylsulfonyl)amino-5-phenylpyrazine (c-42) as a reddish orange amorphous (1.27 g, 68.2%). Rf=0.70 (n-hexane/ethyl acetate=3/2). Mp. 71.5-74.5° C. UV (MeOH) λmax (log ε) 304 (4.20), 257 (4.15). UV (pH 7.4 PB) λmax (log ε) 331 (4.13), 269 (4.12). 1H NMR (400 MHz, DMSO-d6) δ 3.89 (s, 2H), 5.00 (s, 1H), 5.04 (s, 1H), 5.19 (s, 1H), 5.22 (s, 1H), 7.15 (d, J=7.0 Hz, 2H), 7.18-7.24 (m, 1H), 7.25-7.32 (m, 2H), 7.38-7.46 (m, 10H), 7.50-7.55 (m, 3H), 8.04-8.10 (m, 2H), 9.21 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6/CD3OD=2/1) δ 38.3, 61.7 (1C×2), 127.0, 127.5, 127.8 (1C×2), 128.8 (2C), 129.4 (2C×2), 129.7 (2C), 129.9 (2C), 130.2 (2C), 131.3, 132.2 (2C), 135.3, 138.3, 139.6, 142.0, 153.0, 156.5. IR (KBr, cm−1) 507, 538, 557, 611, 629, 694, 723, 748, 766, 779, 876, 920, 1144, 1163, 1252, 1354, 1375, 1427, 1454, 1495, 1530, 3032. HRMS (FAB+) m/z 570.1526 (M+H, C31H28N3O4S2 requires 570.1521).

reactant | 2-amino-3-benzyl-5-phenylpyrazine | 3.26 mmol, 852 mg | NC1=NC=C(N=C1CC1=CC=CC=C1)C1=CC=CC=C1 | C17H15N3
reactant | triethylamine | 9.87 mmol, 1.38 mL | C(C)N(CC)CC | C6H15N
reactant | benzylsulfonyl chloride | 9.80 mmol, 1.87 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-benzyl-2-bis(benzylsulfonyl)amino-5-phenylpyrazine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=CC=C1)N(S(=O)(=O)CC1=CC=CC=C1)S(=O)(=O)CC1=CC=CC=C1 | C31H27N3O4S2
